US09120728B2
1-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]piperidine
Preparation according to Example 1 but performed in one portion: 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene (0.5 g, 1.68 mmol) and piperidine (1.33 ml, 13.46 mmol) in ethanol (5 ml). Purification by flash column chromatography (ethyl acetate/methanol, 100:0 to 85:15) gave the title compound (480 mg, 94.7%). The amine was converted to the hydrochloric acid salt and re-crystallized from methanol/diethyl ether: M.p. 194.6° C. MS m/z (relative intensity, 70 eV) 301(M+, 1), 99 (8), 98 (bp), 96 (4), 55 (5).

reactant | 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene | 1.68 mmol, 0.5 g | BrCCOC1=CC(=CC(=C1)S(=O)(=O)C)F | C9H10BrFO3S
reactant | piperidine | 13.46 mmol, 1.33 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]piperidine | 480 mg, 94.7% | FC=1C=C(OCCN2CCCCC2)C=C(C1)S(=O)(=O)C | C14H20FNO3S
